Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
foreign body in rectum
 
Major Surgical or Invasive Procedure:
___ EUA, foreign object retrieval;, rigid sigmoidoscopy 

 
History of Present Illness:
___ year old male with a PMH of  brain cancer resected at the age 
of ___, leaving
patient with bilateral blindness who presents to the ED with
accidental insertion of 12 inch candle in rectum. Of note,
patient states that he was in his usual state of health. He
accidently lodged a 12 inch candle into the rectum during
masturbation. Patient denies significant pain, fever,
chills/nausea/vomiting. 

 
Past Medical History:
Childhood benign brain tumor 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical examination upon admission:  ___

Physical exam:
Vitals: Stable
General: AAOx3
Cardiac: Normal S1, S2
Respiratory: Breathing comfortably on room air
Abdomen: Soft, non-tender, no rebound or guarding
Extremity: No lesions

Physical examination at the time of discharge: ___

General:  NAD

CV:  ns1,s 2, -s3,-s4
LUNGS:  clear
ABDOMEN:  soft, non-tender
EXT:  no pedal edema bil., no calf tenderness bil
NEURO:  alert and oriented x 3, speech clear

 
Pertinent Results:
___ 12:45AM BLOOD ___ PTT-29.3 ___
___ 12:45AM BLOOD Glucose-98 UreaN-14 Creat-0.7 Na-140 
K-4.0 Cl-102 HCO3-24 AnGap-18

___:  x-ray of the abdomen:

19.7 cm long foreign body likely in rectum/distal sigmoid.
 
Brief Hospital Course:
___ year old male who presented to the hospital with reorts of a 
foreign body in his rectum.  Upon admission, the patient was 
made NPO, given intravenous fluids, and underwent imaging to 
assess the location of the foreign body.  An x-ray of the 
abdomen was done which showed a 19.7 cm long foreign body in 
rectum/distal sigmoid.  The patient was taken to the operating 
room where he underwent a rigid sigmoidoscopy with the removal 
of the foreign body.  He tolerated the procedure well and was 
extubated. 

His post-operative course was stable.  The patient resumed a 
regular diet and was voiding without difficulty. His vital signs 
remained stable and he was afebrile.  He was ambulatory and 
denied any abdominal discomfort.
The patient was seen by the Social worker prior to discharge to 
address any safety concerns.  On ___, the patient was 
discharged home in stable condition. An appointment for 
follow-up was made with Dr. ___ in the acute care clinic.  
Post-operative instructions were reviewed at the time of 
discharge.    

   
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Foreign body in rectum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a foreign body in the 
rectum.  You underwent imaging of the abdomen which identified a 
foreign body in the lower part of the colon. The foreign body 
was removed in the operating room via a scope.  Your vital signs 
have been stable.  You have resumed a regular diet and you are 
preparing for discharge home with the following instructions; 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*Pain or bleeding from your rectum
*Worsening abdominal pain or inability to tolerate food
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___